US06063782
1.35 g (0.0074 mole) of 7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine was added to a solution, obtained by adding 0.26 g (0.011 mole) of sodium to 25 ml of benzyl alcohol at room temperature, and the resulting mixture was heated at 115° C. and, in the course of the heating, 10 ml of benzyl alcohol were additionally added thereto. The heating was continued for 30 hours with stirring. After completion of the reaction, the reaction mixture was poured into ice-water and extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate, the solvent was removed under reduced pressure and benzyl alcohol was distilled off under reduced pressure. The residue was purified by column chromatography through silica gel using a 20:1 mixture of chloroform and methanol as an eluent to give 1.15 g of 7-benzyloxy-2,3-dimethylpyrrolo[2,3-d]pyridazine as a pale yellow powder.

reactant | 7-chloro-2,3-dimethylpyrrolo[2,3-d]pyridazine | 0.0074 mole, 1.35 g | ClC=1N=NC=C2C1NC(=C2C)C | C8H8ClN3
reactant | sodium | 0.011 mole, 0.26 g | [Na] | Na
reactant | benzyl alcohol | 10 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | benzyl alcohol | 25 ml | C(C1=CC=CC=C1)O | C7H8O
product | 7-benzyloxy-2,3-dimethylpyrrolo[2,3-d]pyridazine | 1.15 g | C(C1=CC=CC=C1)OC=1N=NC=C2C1NC(=C2C)C | C15H15N3O
